US09085583B2
To a mixed solution of methanol (10 mL) and water (2 mL), methyl 1-sec-butyl-2-methyl-1H-indole-3-carboxylate (141 mg, 0.58 mmol) and lithium hydroxide (100 mg, 2.4 mmol) were added. The mixture was stirred at room temperature for 12 hours. Then the reaction mixture was acidified by hydrochloric (1 M) to adjust pH=6 and extracted with dichloromethane (10 mL×3). The organic layers were combined and concentrated to give 1-sec-butyl-2-methyl-1H-indole-3-carboxylic acid (97 mg, 72%).

reactant | methanol | 10 mL | CO | CH4O
reactant | methyl 1-sec-butyl-2-methyl-1H-indole-3-carboxylate | 0.58 mmol, 141 mg | C(C)(CC)N1C(=C(C2=CC=CC=C12)C(=O)OC)C | C15H19NO2
reactant | lithium hydroxide | 2.4 mmol, 100 mg | [OH-].[Li+]
solvent | water | 2 mL | O | H2O
product | 1-sec-butyl-2-methyl-1H-indole-3-carboxylic acid | 97 mg, 72% | C(C)(CC)N1C(=C(C2=CC=CC=C12)C(=O)O)C | C14H17NO2
